US08193228B2
4-(2,2-dimethylpropyl)-2-methyl-1-trityl-1H-imidazole
Triethylamine (70 mL, 0.5 mol) followed by trityl chloride (90 g, 0.32 mol) were added to an ambient temperature solution of 4-(2,2-dimethylpropyl)-2-methyl-1H-imidazole (49 g, 0.32 mmol) in methylene chloride (1 L). After stirring at ambient temperature for 30 min, the reaction mixture was washed with water and brine, dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 10-20% ethyl acetate/hexane afforded the title compound.

reactant | Triethylamine | 0.5 mol, 70 mL | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 0.32 mol, 90 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 4-(2,2-dimethylpropyl)-2-methyl-1H-imidazole | 0.32 mmol, 49 g | CC(CC=1N=C(NC1)C)(C)C | C9H16N2
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
product | 4-(2,2-dimethylpropyl)-2-methyl-1-trityl-1H-imidazole | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)(C)C | C28H30N2
